### PR TITLE
[Merged by Bors] - Matroid independence axioms

### PR DESCRIPTION
**Pull request by apnelson1**
This PR provides several ways to construct a matroid with alternative versions of the axiom sets, in particular in terms of an independence predicate. It will be used to define duals and minors of matroids in future PRs. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matroid/Basic.lean [hunk 1]
```diff
@@ -597,6 +596,19 @@ theorem Indep.exists_insert_of_not_base (hI : M.Indep I) (hI' : ¬M.Base I) (hB
   exact ⟨e, ⟨he.1, not_mem_subset hIB' he.2⟩,
     ⟨_, hBase, insert_subset_insert (subset_diff_singleton hIB' hx)⟩⟩
 
+/-- This is the same as `Indep.exists_insert_of_not_base`, but phrased so the statement is
+  defeq to the augmentation axiom for independent sets -/
+theorem aug_property (M : Matroid α) :
+    ∀⦃I B⦄, M.Indep I → I ∉ maximals (· ⊆ ·) (setOf M.Indep) →
+      B ∈ maximals (· ⊆ ·) (setOf M.Indep) → ∃ x ∈ B \ I, M.Indep (insert x I) := by
+  intro I B hI hImax hB
```
Comment (eric-wieser) [inline Mathlib/Data/Matroid/Basic.lean:604]: Doing the intros separately makes it harder to see what the names refer to:
```suggestion
theorem aug_property (M : Matroid α) ⦃I B⦄ (hI : M.Indep I) (hImax : I ∉ maximals (· ⊆ ·) (setOf M.Indep))
      (hB : B ∈ maximals (· ⊆ ·) (setOf M.Indep)) : ∃ x ∈ B \ I, M.Indep (insert x I) := by
```

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 2]
```diff
@@ -0,0 +1,559 @@
...
+monotonicity (subsets of independent sets are independent),
+and some form of 'augmentation' axiom, which allows one to enlarge a non-maximal independent set.
+This augmentation axiom is still required when there are finiteness assumptions, but is simpler.
+It just states that if `I` is a finite independent set and `J` is a larger finite
+independent set, then there exists `e ∈ J \ I` for which `insert e I` is independent.
+This is the axiom that appears in all most of the definitions.
+
+## Main definitions
+
+* `matroid_of_base` constructs a matroid from the base axioms (using the definition of a matroid).
```
Comment (eric-wieser) [inline Mathlib/Data/Matroid/IndepAxioms.lean:30]:
```suggestion
* `Matroid.matroid_of_base` constructs a matroid from the base axioms (using the definition of a matroid).
```
and throughout, so that these generate doc links

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 3]
```diff
@@ -0,0 +1,559 @@
...
+
+open Set
+
+variable {α : Type _}
+
+namespace Matroid
+
+/-- A constructor for matroids via the base axioms.
+  (In fact, just a wrapper for the definition of a matroid) -/
+def matroid_of_base (E : Set α) (Base : Set α → Prop) (exists_base : ∃ B, Base B)
```
Comment (eric-wieser) [inline Mathlib/Data/Matroid/IndepAxioms.lean:67]: The naming convention for `def`s that carry data is 
```suggestion
def matroidOfBase (E : Set α) (Base : Set α → Prop) (exists_base : ∃ B, Base B)
```
and throughout.

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 4]
```diff
@@ -0,0 +1,559 @@
...
+    (base_exchange : ExchangeProperty Base)
+    (maximality : ∀ X, X ⊆ E → ExistsMaximalSubsetProperty (∃ B, Base B ∧ · ⊆ B) X)
+    (support : ∀ B, Base B → B ⊆ E) : Matroid α :=
+  ⟨E, Base, exists_base, base_exchange, maximality, support⟩
+
+@[simp] theorem matroid_of_base_apply (E : Set α) (Base : Set α → Prop) (exists_base : ∃ B, Base B)
```
Comment (eric-wieser) [inline Mathlib/Data/Matroid/IndepAxioms.lean:73]:
```suggestion
@[simp] theorem matroidOfBase_apply (E : Set α) (Base : Set α → Prop) (exists_base : ∃ B, Base B)
```
etc

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 5]
```diff
@@ -0,0 +1,559 @@
+/-
+Copyright (c) 2023 Peter Nelson. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Peter Nelson
+-/
+import Mathlib.Data.Matroid.Basic
+
+/-!
```
Comment (eric-wieser) [inline Mathlib/Data/Matroid/IndepAxioms.lean:8]: Please add a title as
```suggestion
/-!
# The actual title

```

File: Mathlib/Data/Matroid/Basic.lean (hunk 1 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Basic.lean:604]: As per the dosctring, this lemma is designed to be plugged directly into a construction of another matroid, rather than invoked with explicit I and B. (See how it is invoked in the next file). The version for use with a particular `I` and `B` is `Indep.exists_insert_of_not_base`, which is written in the normal way with everything before the colon.

Comment (eric-wieser) [reply Mathlib/Data/Matroid/Basic.lean:604]: Moving things before the colon is unrelated to whether arguments are taken explicitly or implicitly.

Comment (apnelson1) [reply Mathlib/Data/Matroid/Basic.lean]: Ok - changed.

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 6]
```diff
@@ -0,0 +1,565 @@
...
+    (base_exchange : ExchangeProperty Base)
+    (maximality : ∀ X, X ⊆ E → ExistsMaximalSubsetProperty (∃ B, Base B ∧ · ⊆ B) X)
+    (support : ∀ B, Base B → B ⊆ E) :
+    (matroidOfBase E Base exists_base base_exchange maximality support).Base = Base := rfl
+
+@[simp] theorem matroidOfBase_ground (E : Set α) (Base : Set α → Prop) (exists_base : ∃ B, Base B)
+    (base_exchange : ExchangeProperty Base)
+    (maximality : ∀ X, X ⊆ E → ExistsMaximalSubsetProperty (∃ B, Base B ∧ · ⊆ B) X)
+    (support : ∀ B, Base B → B ⊆ E) :
+    (matroidOfBase E Base exists_base base_exchange maximality support).E = E := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Matroid/IndepAxioms.lean:87]: Does `@[simps]` on the `def` above generate these for you?

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 7]
```diff
@@ -0,0 +1,565 @@
...
+
+@[simp] theorem matroidOfIndepOfFinitary_ground (E : Set α) (Indep : Set α → Prop)
+    (h_empty : Indep ∅)
+    (ind_mono : ∀ ⦃I J⦄, Indep J → I ⊆ J → Indep I)
+    (ind_aug : ∀ ⦃I J⦄, Indep I → I.Finite → Indep J → J.Finite → I.ncard < J.ncard →
+      ∃ e ∈ J, e ∉ I ∧ Indep (insert e I))
+    (h_compact : ∀ I, (∀ J, J ⊆ I → J.Finite → Indep J) → Indep I)
+    (h_support : ∀ ⦃I⦄, Indep I → I ⊆ E) :
+    (matroidOfIndepOfFinitary E Indep h_empty ind_mono ind_aug h_compact h_support).E = E := by
+  simp [matroidOfIndepOfFinitary]
```
Comment (eric-wieser) [inline Mathlib/Data/Matroid/IndepAxioms.lean:278]: isn't this true by `rfl`?

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 8]
```diff
@@ -0,0 +1,565 @@
...
+
+open Set
+
+variable {α : Type _}
+
+namespace Matroid
+
+/-- A constructor for matroids via the base axioms.
+  (In fact, just a wrapper for the definition of a matroid) -/
+def matroidOfBase (E : Set α) (Base : Set α → Prop) (exists_base : ∃ B, Base B)
```
Comment (eric-wieser) [inline Mathlib/Data/Matroid/IndepAxioms.lean:71]:
```suggestion
protected def ofBase (E : Set α) (Base : Set α → Prop) (exists_base : ∃ B, Base B)
```
so that the caller can write either `Matroid.ofBase` or just `.ofBase`, and not have to write `Matroid` twice,

File: Mathlib/Data/Matroid/IndepAxioms.lean (hunk 6 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/IndepAxioms.lean:87]: In this one case, `@[simps]` does (although I've kept the `ofBase_apply` because it is sometimes useful to rewrite the predicate itself) but none of the other definitions of matroids below use the structure fields directly for the definition, so `@[simps]` seems not to work.

File: Mathlib/Data/Matroid/IndepAxioms.lean (hunk 7 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/IndepAxioms.lean:278]: no, because `(Matroid.ofIndepOfFinitary E Indep ... _).Indep` isn't defeq to `Indep`.

Comment (apnelson1) [reply Mathlib/Data/Matroid/IndepAxioms.lean:278]: This is in turn true because `Matroid` is defined in terms of `Base` predicate rather than an `Indep` predicate. The latter would have given better defeq properties, given that independence is the usual way to construct a matroid. Changing this would need a (manageable) refactor, but that's for another day.

File: Mathlib/Data/Matroid/IndepAxioms.lean (hunk 8 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/IndepAxioms.lean]: Good idea - thanks!

File: Mathlib/Data/Matroid/IndepAxioms.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Data/Matroid/IndepAxioms.lean]: Note that you can use `simps ground` or perhaps `simps E` to generate only the lemmas you think are useful.

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 9]
```diff
@@ -0,0 +1,560 @@
...
+
+open Set
+
+variable {α : Type*}
+
+namespace Matroid
+
+/-- A constructor for matroids via the base axioms.
+  (In fact, just a wrapper for the definition of a matroid) -/
+@[simps] protected def ofBase (E : Set α) (Base : Set α → Prop) (exists_base : ∃ B, Base B)
```
Comment (kmill) [inline Mathlib/Data/Matroid/IndepAxioms.lean:71]: The only difference between this function and `Matroid.mk` is that the argument names don't end in `'`. Let's delete this and modify the original `structure` to have the name you want.

```lean
@[ext] structure Matroid (α : Type _) where
  /-- A constructor for matroids from the base axioms. -/
  ofBase ::
  /-- `M` has a ground set `E`. -/
  (E : Set α)
  ... and so on ...
```

Also, I was looking through the fields of `Matroid` to see why you put primes at the end, and I couldn't figure it out. Could you remove the primes too while we're at it, unless there's some reason for it? You'll have to remove `Matroid.exists_base` on line 338, but that's just a restatement of the axiom without the prime.

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 10]
```diff
@@ -0,0 +1,560 @@
...
+    (base_exchange : ExchangeProperty Base)
+    (maximality : ∀ X, X ⊆ E → ExistsMaximalSubsetProperty (∃ B, Base B ∧ · ⊆ B) X)
+    (support : ∀ B, Base B → B ⊆ E) : Matroid α :=
+  ⟨E, Base, exists_base, base_exchange, maximality, support⟩
+
+@[simp] theorem ofBase_apply (E : Set α) (Base : Set α → Prop) (exists_base : ∃ B, Base B)
```
Comment (kmill) [inline Mathlib/Data/Matroid/IndepAxioms.lean:77]: With the change to the constructor name, this is likely not necessary. (Note: `by ext; simp` can be replaced by `rfl` since structure projections are part of definitional equality.)

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 11]
```diff
@@ -0,0 +1,560 @@
...
+  ext; simp
+
+/-- A constructor for a matroid using the independence axioms for infinite matroids. -/
+protected def ofIndep (E : Set α) (Indep : Set α → Prop) (h_empty : Indep ∅)
+    (h_subset : ∀ ⦃I J⦄, Indep J → I ⊆ J → Indep I)
+    (h_aug : ∀⦃I B⦄, Indep I → I ∉ maximals (· ⊆ ·) (setOf Indep) →
+      B ∈ maximals (· ⊆ ·) (setOf Indep) → ∃ x ∈ B \ I, Indep (insert x I))
+    (h_maximal : ∀ X, X ⊆ E → ExistsMaximalSubsetProperty Indep X)
+    (h_support : ∀ I, Indep I → I ⊆ E) : Matroid α :=
+  Matroid.ofBase E (· ∈ maximals (· ⊆ ·) (setOf Indep))
```
Comment (kmill) [inline Mathlib/Data/Matroid/IndepAxioms.lean:91]: This would be a lot more readable using structure notation. Please transform every instance of `Matroid.ofBase` similarly. If you really want to use `Matroid.ofBase` explicitly, then please use keyword argument notation (`Matroid.ofBase E (· ∈ maximals (· ⊆ ·) (setOf Indep)) (exists_base := by ...) (base_exchange := by ...) ...`)
```lean
  { E -- note to you, this first line is short for `E := E`
    Base := (· ∈ maximals (· ⊆ ·) (setOf Indep))
    exists_base' := by
      obtain ⟨B, ⟨hB,-,-⟩, hB₁⟩ := h_maximal E rfl.subset ∅ h_empty (empty_subset _)
      exact ⟨B, ⟨hB, fun B' hB' hBB' ↦ hB₁ ⟨hB', empty_subset _,h_support B' hB'⟩ hBB'⟩⟩
    base_exchange' := by
      rintro B B' ⟨hB, hBmax⟩ ⟨hB',hB'max⟩ e he
      have hnotmax : B \ {e} ∉ maximals (· ⊆ ·) (setOf Indep)
      { simp only [mem_maximals_setOf_iff, diff_singleton_subset_iff, not_and, not_forall,
          exists_prop, exists_and_left]
        exact fun _ ↦ ⟨B, hB, subset_insert _ _, by simpa using he.1⟩ }

      obtain ⟨f,hf,hfB⟩ := h_aug (h_subset hB (diff_subset B {e})) hnotmax ⟨hB',hB'max⟩
      simp only [mem_diff, mem_singleton_iff, not_and, not_not] at hf

      have hfB' : f ∉ B := by (intro hfB; obtain rfl := hf.2 hfB; exact he.2 hf.1)

      refine' ⟨f, ⟨hf.1, hfB'⟩, by_contra (fun hnot ↦ _)⟩
      obtain ⟨x,hxB, hind⟩ :=  h_aug hfB hnot ⟨hB, hBmax⟩
      simp only [mem_diff, mem_insert_iff, mem_singleton_iff, not_or, not_and, not_not] at hxB
      obtain rfl := hxB.2.2 hxB.1
      rw [insert_comm, insert_diff_singleton, insert_eq_of_mem he.1] at hind
      exact not_mem_subset (hBmax hind (subset_insert _ _)) hfB' (mem_insert _ _)
    maximality' := by
      rintro X hXE I ⟨hB, hB, hIB⟩ hIX
      obtain ⟨J, ⟨hJ, hIJ, hJX⟩, hJmax⟩ := h_maximal X hXE I (h_subset hB.1 hIB) hIX
      obtain ⟨BJ, hBJ⟩ := h_maximal E rfl.subset J hJ (h_support J hJ)
      refine' ⟨J, ⟨⟨BJ,_, hBJ.1.2.1⟩ ,hIJ,hJX⟩, _⟩
      · exact ⟨hBJ.1.1, fun B' hB' hBJB' ↦ hBJ.2 ⟨hB',hBJ.1.2.1.trans hBJB', h_support _ hB'⟩ hBJB'⟩
      simp only [maximals, mem_setOf_eq, and_imp, forall_exists_index]
      rintro A B' (hBi' : Indep _) - hB'' hIA hAX hJA
      simp only [mem_setOf_eq, and_imp] at hJmax
      exact hJmax (h_subset hBi' hB'') hIA hAX hJA
    subset_ground' := fun B hB ↦ h_support B hB.1 }
```

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 12]
```diff
@@ -0,0 +1,560 @@
...
+      simp only [mem_setOf_eq, and_imp] at hJmax
+      exact hJmax (h_subset hBi' hB'') hIA hAX hJA )
+  ( fun B hB ↦ h_support B hB.1 )
+
+@[simp] theorem ofIndep_apply (E : Set α) (Indep : Set α → Prop) (h_empty : Indep ∅)
+    (h_subset : ∀ ⦃I J⦄, Indep J → I ⊆ J → Indep I)
+    (h_aug : ∀⦃I B⦄, Indep I → I ∉ maximals (· ⊆ ·) (setOf Indep) →
+      B ∈ maximals (· ⊆ ·) (setOf Indep) → ∃ x ∈ B \ I, Indep (insert x I))
+    (h_maximal : ∀ X, X ⊆ E → ExistsMaximalSubsetProperty Indep X)
+    (h_support : ∀ I, Indep I → I ⊆ E) :
```
Comment (kmill) [inline Mathlib/Data/Matroid/IndepAxioms.lean:130]: A trick to save having to restate all this is that you can write 
```suggestion
    (h_subset h_aug h_maximal h_support) :
```
That's because `Matroid.ofIndep` determines their types from `E` and `Indep`. (I'd have included `h_empty` to if I had also selected that line before writing this suggestion.)

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 13]
```diff
@@ -0,0 +1,560 @@
...
+
+  have htofin : ∀ I e, Indep I → ¬ Indep (insert e I) →
+    ∃ I₀, I₀ ⊆ I ∧ I₀.Finite ∧ ¬ Indep (insert e I₀) := by
+      by_contra h; push_neg at h
+      obtain ⟨I, e, -, hIe, h⟩ := h
+      refine hIe <| h_compact _ fun J hJss hJfin ↦ ?_
+      exact ind_mono (h (J \ {e}) (by rwa [diff_subset_iff]) (hJfin.diff _)) (by simp)
+
+  Matroid.ofIndep E Indep h_empty ind_mono
+  ( by
```
Comment (kmill) [inline Mathlib/Data/Matroid/IndepAxioms.lean:167]: Please use keyword arguments here and elsewhere for `Matroid.ofIndep`
```suggestion
  (h_aug := by
```
Note that the `( by` on line 232 is too indented. (Also, just to mention it, the style would be `(by` instead of `( by`.)

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 14]
```diff
@@ -0,0 +1,560 @@
...
+      exact sUnion_subset fun X hX ↦ (hIs hX).2.2 )
+    h_support
+
+@[simp] theorem ofIndepOfFinitary_apply (E : Set α) (Indep : Set α → Prop)
+    (h_empty : Indep ∅)
+    (ind_mono : ∀ ⦃I J⦄, Indep J → I ⊆ J → Indep I)
+    (ind_aug : ∀ ⦃I J⦄, Indep I → I.Finite → Indep J → J.Finite → I.ncard < J.ncard →
+      ∃ e ∈ J, e ∉ I ∧ Indep (insert e I))
+    (h_compact : ∀ I, (∀ J, J ⊆ I → J.Finite → Indep J) → Indep I)
+    (h_support : ∀ ⦃I⦄, Indep I → I ⊆ E) :
```
Comment (kmill) [inline Mathlib/Data/Matroid/IndepAxioms.lean:260]: Like a similar comment, you can drop the types here. One reason to do this is that, in case you ever change the types of the arguments to `Matroi.ofIndepOfFinitary` subtly, then you don't have to go through and fix all these. Plus, it gives these simp lemmas less visual prominence.

**Review by kmill — COMMENTED** [review]
I've left some comments.

I'd like to suggest a bigger refactor, which is to define actual `structure`s for the different kinds of matroids, and then define, for example, `Matroid.ofIndep` to be a function `IndepMatroid α -> Matroid α`. This would clean up the statements of many of your simp lemmas, and it would let you use structure notation to organize constructions.

Later, since you would have actual types for the different representations, you could prove these different notions of matroid are equivalent. But, it should be documented that these different structures are intended to be used for the constructors `Matroid.ofIndep`, etc., and that no theory should be built up specifically for these alternative matroid types.

File: Mathlib/Data/Matroid/Basic.lean [hunk 15]
```diff
@@ -597,6 +596,18 @@ theorem Indep.exists_insert_of_not_base (hI : M.Indep I) (hI' : ¬M.Base I) (hB
   exact ⟨e, ⟨he.1, not_mem_subset hIB' he.2⟩,
     ⟨_, hBase, insert_subset_insert (subset_diff_singleton hIB' hx)⟩⟩
 
+/-- This is the same as `Indep.exists_insert_of_not_base`, but phrased so that
+  `M.aug_property` is exactly the augmentation axiom for independent sets. -/
+theorem aug_property (M : Matroid α) ⦃I B : Set α⦄ (hI : M.Indep I)
+    (hInotmax : I ∉ maximals (· ⊆ ·) (setOf M.Indep)) (hB : B ∈ maximals (· ⊆ ·) (setOf M.Indep)) :
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Matroid/Basic.lean:602]: That looks very weird to me; your spelling assumes that `M.Indep` is a set, in which case you could just write `M.Indep`. If it's a predicate, then presumably you meant:
```suggestion
    (hInotmax : I ∉ maximals (· ⊆ ·) {I' | M.Indep I'}) (hB : B ∈ maximals (· ⊆ ·) {I' | M.Indep I'}) :
```

File: Mathlib/Data/Matroid/IndepAxioms.lean (hunk 10 above)
Comment (eric-wieser) [reply Mathlib/Data/Matroid/IndepAxioms.lean:77]: (and in general, it's a good idea to replace `by some_proof` with `rfl` whenever possible, because it makes `dsimp` more powerful)

File: Mathlib/Data/Matroid/Basic.lean (hunk 15 above)
[the remark this answers is not in the document]
Comment (kmill) [reply Mathlib/Data/Matroid/Basic.lean:602]: Thanks, that was a mistake and you wrote what I intended.

**Comment by apnelson1** [comment]
> I've left some comments.
> 
> I'd like to suggest a bigger refactor, which is to define actual `structure`s for the different kinds of matroids, and then define, for example, `Matroid.ofIndep` to be a function `IndepMatroid α -> Matroid α`. This would clean up the statements of many of your simp lemmas, and it would let you use structure notation to organize constructions.
> 
> Later, since you would have actual types for the different representations, you could prove these different notions of matroid are equivalent. But, it should be documented that these different structures are intended to be used for the constructors `Matroid.ofIndep`, etc., and that no theory should be built up specifically for these alternative matroid types.

Thank you for this suggestion. As much as I'm champing at the bit, this really makes sense. I've just done this refactor - let me know what you think.

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 16]
```diff
@@ -0,0 +1,515 @@
...
+attribute [pp_dot] Indep E
+
+/-- An `M : IndepMatroid α` gives a `Matroid α` whose bases are the maximal `M`-independent sets. -/
+@[simps] protected def matroid (M : IndepMatroid α) : Matroid α where
+  E := M.E
+  Base := (· ∈ maximals (· ⊆ ·) {I | M.Indep I})
+  exists_base := ( by
+      obtain ⟨B, ⟨hB,-,-⟩, hB₁⟩ :=
+        M.indep_maximal M.E rfl.subset ∅ M.indep_empty (empty_subset _)
+      exact ⟨B, ⟨hB, fun B' hB' h' ↦ hB₁ ⟨hB', empty_subset _,M.subset_ground B' hB'⟩ h'⟩⟩)
```
Comment (kmill) [inline Mathlib/Data/Matroid/IndepAxioms.lean:116]:
```suggestion
  exists_base := by
    obtain ⟨B, ⟨hB,-,-⟩, hB₁⟩ :=
      M.indep_maximal M.E rfl.subset ∅ M.indep_empty (empty_subset _)
    exact ⟨B, ⟨hB, fun B' hB' h' ↦ hB₁ ⟨hB', empty_subset _,M.subset_ground B' hB'⟩ h'⟩⟩
```

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 17]
```diff
@@ -0,0 +1,515 @@
...
+  base_exchange := ( by
```
Comment (kmill) [inline Mathlib/Data/Matroid/IndepAxioms.lean:117]:
```suggestion
  base_exchange := by
```
and remove the parenthesis at the end of this `by` block

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 18]
```diff
@@ -0,0 +1,515 @@
...
+      rintro X hXE I ⟨hB, hB, hIB⟩ hIX
+      obtain ⟨J, ⟨hJ, hIJ, hJX⟩, hJmax⟩ := M.indep_maximal X hXE I (M.indep_subset hB.1 hIB) hIX
+      obtain ⟨BJ, hBJ⟩ := M.indep_maximal M.E rfl.subset J hJ (M.subset_ground J hJ)
+      refine' ⟨J, ⟨⟨BJ,_, hBJ.1.2.1⟩ ,hIJ,hJX⟩, _⟩
+      · exact ⟨hBJ.1.1, fun B' hB' hBJB' ↦ hBJ.2 ⟨hB',hBJ.1.2.1.trans hBJB',
+          M.subset_ground _ hB'⟩ hBJB'⟩
+      simp only [maximals, mem_setOf_eq, and_imp, forall_exists_index]
+      rintro A B' (hBi' : M.Indep _) - hB'' hIA hAX hJA
+      simp only [mem_setOf_eq, and_imp] at hJmax
+      exact hJmax (M.indep_subset hBi' hB'') hIA hAX hJA )
```
Comment (kmill) [inline Mathlib/Data/Matroid/IndepAxioms.lean:146]:
```suggestion
  maximality := by
    rintro X hXE I ⟨hB, hB, hIB⟩ hIX
    obtain ⟨J, ⟨hJ, hIJ, hJX⟩, hJmax⟩ := M.indep_maximal X hXE I (M.indep_subset hB.1 hIB) hIX
    obtain ⟨BJ, hBJ⟩ := M.indep_maximal M.E rfl.subset J hJ (M.subset_ground J hJ)
    refine' ⟨J, ⟨⟨BJ,_, hBJ.1.2.1⟩ ,hIJ,hJX⟩, _⟩
    · exact ⟨hBJ.1.1, fun B' hB' hBJB' ↦ hBJ.2 ⟨hB',hBJ.1.2.1.trans hBJB',
        M.subset_ground _ hB'⟩ hBJB'⟩
    simp only [maximals, mem_setOf_eq, and_imp, forall_exists_index]
    rintro A B' (hBi' : M.Indep _) - hB'' hIA hAX hJA
    simp only [mem_setOf_eq, and_imp] at hJmax
    exact hJmax (M.indep_subset hBi' hB'') hIA hAX hJA
```

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 19]
```diff
@@ -0,0 +1,515 @@
...
+  subset_ground := ( fun B hB ↦ M.subset_ground B hB.1 )
```
Comment (kmill) [inline Mathlib/Data/Matroid/IndepAxioms.lean:147]:
```suggestion
  subset_ground := fun B hB ↦ M.subset_ground B hB.1
```
or even
```suggestion
  subset_ground B hB := M.subset_ground B hB.1
```

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 20]
```diff
@@ -0,0 +1,515 @@
...
+      B ∈ maximals (· ⊆ ·) {I | Indep I} → ∃ x ∈ B \ I, Indep (insert x I))
+    (subset_ground : ∀ I, Indep I → I ⊆ E)
+    (indep_bdd : ∃ (n : ℕ), ∀ I, Indep I → I.encard ≤ n ) : IndepMatroid α where
+      E := E
+      Indep := Indep
+      indep_empty := indep_empty
+      indep_subset := indep_subset
+      indep_aug := indep_aug
+      indep_maximal := (fun X _ ↦ Matroid.existsMaximalSubsetProperty_of_bdd indep_bdd X)
+      subset_ground := subset_ground
```
Comment (kmill) [inline Mathlib/Data/Matroid/IndepAxioms.lean:311]:
```suggestion
  E := E
  Indep := Indep
  indep_empty := indep_empty
  indep_subset := indep_subset
  indep_aug := indep_aug
  indep_maximal := (fun X _ ↦ Matroid.existsMaximalSubsetProperty_of_bdd indep_bdd X)
  subset_ground := subset_ground
```

File: Mathlib/Data/Matroid/IndepAxioms.lean [hunk 21]
```diff
@@ -0,0 +1,515 @@
...
+  obtain ⟨B, hB⟩ := M.indep_maximal _ rfl.subset I h (M.subset_ground _ h)
+  simp only [mem_maximals_setOf_iff, and_imp] at *
+  exact ⟨B, ⟨hB.1.1, fun J hJ hBJ ↦
+    hB.2 hJ (hB.1.2.1.trans hBJ) (M.subset_ground _ hJ) hBJ⟩, hB.1.2.1⟩
+
+/-- An independence predicate satisfying the finite matroid axioms determines a matroid,
+  provided independence is determined by its behaviour on finite sets.
+  This fundamentally needs choice, since it can be used to prove that every vector space
+  has a basis. -/
+@[simps E] protected def ofFinitary (E : Set α) (Indep : Set α → Prop)
```
Comment (kmill) [inline Mathlib/Data/Matroid/IndepAxioms.lean:162]: Similarly, would it make sense to define a `FinitaryMatroid` structure and make `IndepMatroid.ofFinitary` be a function `FinitaryMatroid α -> IndepMatroid α`?

Maybe there are too many variations though and this is fine for now.

Comment (apnelson1) [reply Mathlib/Data/Matroid/IndepAxioms.lean:161]: Yes, I think it is ok as it stands.

**Review by kmill — COMMENTED** [review]
Thanks!

There are still refinements we could possibly make (like it would probably be nicer if in each `def` you had `E` be an explicit argument, to avoid needing to put type ascriptions around the `Finite` type, and because then in the goal view you can see `E` at a glance), but these shouldn't prevent continuing matroid theory's development.

bors r+

You might experiment with making a coercion from `IndepMatroid` to `Matroid`. That would let you use an `IndepMatroid` wherever a `Matroid` is expected, which might come in handy. Untested, but this might work:
```
instance (α : Type*) : CoeOut (IndepMatroid α) (Matroid α) := ⟨IndepMatriod.matroid⟩
```
